US06319917B1
(b) (1-Hydroxymethyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester
To a solution of 32.0 g (86.6 mmol) of 2-(N-tert-butoxycarbonyl-N-methyl-amino)-3,3-diphenyl-propanoic acid methyl ester in 400 ml of ether there are added in succession 3.0 g (130.0 mmol) of lithium borohydride in portions and 5.3 ml (130 mmol) of methanol dropwise (foams!). The reaction mixture is stirred under reflux for 3 hours, then cooled in an ice bath, and 40 ml of 0.5N hydrochloric acid are added (foams!). After further dilution with water, the mixture is extracted twice with methylene chloride. The combined organic phases are dried over sodium sulfate and concentrated by evaporation, yielding the title compound in the form of a white foam. TLC: methylene chloride/methanol (95:5) Rf=0.46; FAB-MS (M+H)+=342.

reactant | 2-(N-tert-butoxycarbonyl-N-methyl-amino)-3,3-diphenyl-propanoic acid methyl ester | 86.6 mmol, 32.0 g | COC(C(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O | C22H27NO4
reactant | lithium borohydride | 130.0 mmol, 3.0 g | [BH4-].[Li+]
reactant | methanol | 130 mmol, 5.3 ml | CO | CH4O
reactant | hydrochloric acid | 0.5N, 40 ml | Cl | ClH
solvent | ether | 400 ml | CCOCC | C4H10O
product | (1-Hydroxymethyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C(C(C1=CC=CC=C1)C1=CC=CC=C1)CO)=O | C21H27NO3
